resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.999712
R2 0 n2 1.001196
R3 0 n4 0.995338
C4 n1 n3 2.16e-06
R5 n1 n5 0.984044
R6 n2 n3 1.003267
R7 n2 n6 1.006376
R8 n3 n7 1.013467
R9 n4 n5 1.003872
R10 n4 n6 0.996621
R11 n5 n7 1.007205
R12 n6 n7 1.008565
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
